US04709050
3-(3-tert-butyl-4-hydroxy-5-methylphenyl)-1-n-dodecylpyrrolidine-2,5-dione
This compound is prepared by the procedure of Example 1 from 1.20 g (50 mmol) of sodium hydride, 8.21 g (50 mmol) of 2-tert-butyl-6-methylphenol, and 13.27 g (50 mmol) of N-n-dodecylmaleimide in tert-butyl alcohol. The residue is purified by preparative HPLC (8:2 heptane:ethyl acetate eluent) to give 4.70 g (22%) of a yellow wax.

reactant | sodium hydride | 50 mmol, 1.20 g | [H-].[Na+]
reactant | 2-tert-butyl-6-methylphenol | 50 mmol, 8.21 g | C(C)(C)(C)C1=C(C(=CC=C1)C)O | C11H16O
reactant | N-n-dodecylmaleimide | 50 mmol, 13.27 g | C(CCCCCCCCCCC)N1C(C=CC1=O)=O | C16H27NO2
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
product | 3-(3-tert-butyl-4-hydroxy-5-methylphenyl)-1-n-dodecylpyrrolidine-2,5-dione | C(C)(C)(C)C=1C=C(C=C(C1O)C)C1C(N(C(C1)=O)CCCCCCCCCCCC)=O | C27H43NO3
